US06589951B1
Synthesis of 1-Chloro-6-methoxy-5-(tetrahydro-furan-3-yloxy)-phthalazine
Operating analogously to example 7 starting from 6-methoxy-5-(tetrahydro-furan-3-yloxy)-2H-phthalazin-1-one (1.73 g, 6.6 mmoles) and phosphoryl chloride (6.7 ml, 73 mmoles), 1.63 g of the title product were obtained (yield: 88%).

reactant | 6-methoxy-5-(tetrahydro-furan-3-yloxy)-2H-phthalazin-1-one | 6.6 mmoles, 1.73 g | COC=1C(=C2C=NNC(C2=CC1)=O)OC1COCC1 | C13H14N2O4
reactant | phosphoryl chloride | 73 mmoles, 6.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-6-methoxy-5-(tetrahydro-furan-3-yloxy)-phthalazine | 1.63 g, yield: 88% | ClC1=NN=CC2=C(C(=CC=C12)OC)OC1COCC1 | C13H13ClN2O3
